US07087626B2
4,5-Dihydroxy-pentanoic acid ethyl ester
A solution of ethyl pent-4-enoate (11.7 g, 91.3 mmol) in tetrahydrofuran (420 mL) and water (40 mL) is treated with osmium tetroxide (1.0 g, 4.2 mmol) and 4-methylmorpholine N-oxide (32.5 mL, 50% in water) at room temperature and stired for 3 h, at which time no more starting material is detectable by TLC (SiO2, 2% methanol/dichloromethane, Rf=0.40). The mixture is concentrated in vacuo and the residue chromatographed on SiO2 (2% methanol/ethyl acetate) to afford the title compound 14.37 g (96%) as a colorless oil.

reactant | ethyl pent-4-enoate | 91.3 mmol, 11.7 g | C(CCC=C)(=O)OCC | C7H12O2
reactant | 4-methylmorpholine N-oxide | 32.5 mL | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | methanol dichloromethane | CO.ClCCl
reactant | tetrahydrofuran | 420 mL | O1CCCC1 | C4H8O
solvent | water | 40 mL | O | H2O
catalyst | osmium tetroxide | 4.2 mmol, 1.0 g | [Os](=O)(=O)(=O)=O
product | 4,5-Dihydroxy-pentanoic acid ethyl ester | 14.37 g, 96% | C(C)OC(CCC(CO)O)=O | C7H14O4
